US08067426B2
Intermediate 13: 2-(Butyloxy)-9-(3-chloropropyl)-8-(methyloxy)-9H-purin-6-amine
2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (4.7 g, 13.38 mmol) and potassium carbonate (4.62 g, 33.4 mmol) in dry DMF (50 ml) were stirred and heated at 50° C., under nitrogen, for 75 mins. The mixture was allowed to cool to room temperature and then cooled to 0° C. and 1-bromo-3-chloropropane (2.106 g, 13.38 mmol) was added. The mixture was stirred at 0 to 10° C. for approximately 5 hours then allowed to warm to room temperature and stirred for approximately a further 40 hours when LCMS indicated approximately 70% of the desired product.

reactant | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 13.38 mmol, 4.7 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 33.4 mmol, 4.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 13.38 mmol, 2.106 g | BrCCCCl | C3H6BrCl
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(Butyloxy)-9-(3-chloropropyl)-8-(methyloxy)-9H-purin-6-amine | approximately 70% | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCl)OC)N | C13H20ClN5O2
